US06147090
cis-4-(3,5-Bis-trifluoromethyl-benzylamino)-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester:
To a solution of 4-amino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester (208 mg, 0.64 mmol) in anhydrous 1,2-dichloroethane (5 mL) was added acetic acid (0.041 mL, 0.71 mmol), followed by 3,5-bis(trifluoromethyl)benzaldehyde (172 mg, 0.71 mmol) and sodium triacetoxyborohydride (0.205 g, 0.97 mmol). The reaction was stirred at room temperature for 2 h. The reaction mixture was partitioned between dichloromethane (45 ml) and water (100 ml) and the aqueous phase was adjusted to pH 9. The aqueous phase was extracted with dichloromethane (3×10 mL). The combined extracts were dried over magnesium sulfate, filtered and concentrated in vacuo. Purification by silica gel chromatography using 20% acetone/hexanes as eluent afforded the title product (337 mg, 95%). MS m/z 567 (M+ +NH4); 1H NMR (CDCl3) δ 1.40 (d, 3H), 7.14 (s, 1H).

reactant | 4-amino-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester | 0.64 mmol, 208 mg | COC(=O)C1=C(C=C2C(CC(N(C2=C1)C(=O)OCC)C)N)OC | C16H22N2O5
reactant | acetic acid | 0.71 mmol, 0.041 mL | C(C)(=O)O | C2H4O2
reactant | 3,5-bis(trifluoromethyl)benzaldehyde | 0.71 mmol, 172 mg | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | sodium triacetoxyborohydride | 0.97 mmol, 0.205 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | cis-4-(3,5-Bis-trifluoromethyl-benzylamino)-6-methoxy-2-methyl-3,4-dihydro-2H-quinoline-1,7-dicarboxylic acid 1-ethyl ester 7-methyl ester | 337 mg, 95% | COC(=O)C1=C(C=C2[C@@H](C[C@@H](N(C2=C1)C(=O)OCC)C)NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)OC | C25H26F6N2O5
